US07323475B2
b) (S)-2-{[1-bromo-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid
400 mg of 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and 890 mg of (L)-Alanine was suspended in a 20 ml solution of 0.5 M of sodium methoxide in methanol. The mixture was heated to 160° C. for 12 min using a CEM Discover microwave reactor. The resultant solution was concentrated to ca. 10 ml, and 0.5 N HCl was added until a pH 3 was reached. The solution was extracted three times with ethyl acetate, and the organic fractions dried over sodium sulfate and concentrated to a tan solid; MS (−): m/z 337.14 (M−1)

reactant | 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 400 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Br | C14H14BrNO3
reactant | (L)-Alanine | 890 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | (S)-2-{[1-bromo-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | BrC1=NC(=C(C2=CC=CC=C12)O)C(=O)N[C@H](C(=O)O)C | C13H11BrN2O4
